US08536165B2
A. 3-Methyl-5-nitro-2-(3-(trifluoromethoxy)phenyl)pyridine
Obtained (1.25 g, yield 91%) following the procedure described in Intermediate 27, starting with 2-bromo-3-methyl-5-nitropyridine (4.61 mmol, 1.0 g), 3-(trifluoromethoxy)phenyl boronic acid (4.61 mmol, 0.95 g).

reactant | 2-bromo-3-methyl-5-nitropyridine | 4.61 mmol, 1.0 g | BrC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5BrN2O2
reactant | 3-(trifluoromethoxy)phenyl boronic acid | 4.61 mmol, 0.95 g | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | 3-Methyl-5-nitro-2-(3-(trifluoromethoxy)phenyl)pyridine | yield 91% | CC=1C(=NC=C(C1)[N+](=O)[O-])C1=CC(=CC=C1)OC(F)(F)F | C13H9F3N2O3
